US05614520
100 mg of Ethyl 2-(3-bromo-4-isobutyloxyphenyl)-4-methyl-5-thiazolecarboxylate, 95 mg of cuprous iodide and 140 mg of sodium trifluoroacetate were suspended in 2 ml of N-methylpyrrolidone, and the mixture was heated in a nitrogen atmosphere at 140° C. for 4 hours. After completion of the reaction, the product was extracted with ethyl acetate, and the organic layer was concentrated to give a crude crystal. The resulting crystal was purified by silica gel chromatography to give 80 mg of ethyl 2-(4-isobutyloxy-3-trifluoromethylphenyl)-4-methyl-5-thiazolecarboxylate. The product was hydrolyzed by a conventional process, following by recrystallization from hexane-ether to give 50 mg of 2-(4-isobutyloxy-3-trifluomethylphenyl)-4-methyl-5-thiazolecarboxylic acid (yield: 56%).

reactant | Ethyl 2-(3-bromo-4-isobutyloxyphenyl)-4-methyl-5-thiazolecarboxylate | 100 mg | BrC=1C=C(C=CC1OCC(C)C)C=1SC(=C(N1)C)C(=O)OCC | C17H20BrNO3S
reactant | sodium trifluoroacetate | 140 mg | FC(C(=O)[O-])(F)F.[Na+]
solvent | N-methylpyrrolidone | 2 ml | CN1C(CCC1)=O | C5H9NO
product | ethyl 2-(4-isobutyloxy-3-trifluoromethylphenyl)-4-methyl-5-thiazolecarboxylate | 80 mg | C(C(C)C)OC1=C(C=C(C=C1)C=1SC(=C(N1)C)C(=O)OCC)C(F)(F)F | C18H20F3NO3S
